US03931407
b. 2-(4-Bromophenyl)-1(3-carboxy-4-hydroxyphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole ##SPC93##
A solution of 20.8 g. (0.07 mole) of 2-(p-bromophenacyl)cyclopentanone, 10.71 g. (0.07 mole) of 5-aminosalicylic acid, and 88 ml. of glacial acetic acid was heated under reflux under nitrogen for 31/2 hours, cooled and filtered. The collected solid was chromatographed on silica gel. The solid eluted with benzene was recrystallized from ethanol-water to provide tan crystals, m.p. 215°-216°.

reactant | 2-(p-bromophenacyl)cyclopentanone | 0.07 mole | BrC1=CC=C(C(CC2C(CCC2)=O)=O)C=C1 | C13H13BrO2
reactant | 5-aminosalicylic acid | 0.07 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Bromophenyl)-1(3-carboxy-4-hydroxyphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole | BrC1=CC=C(C=C1)C1=CC2=C(N1C1=CC(=C(C=C1)O)C(=O)O)CCC2 | C20H16BrNO3
